US05702887
treating methyl 2-methoxy-benz[b]acridine-12-carboxylate with sodium hydroxide in methanol and acidifying to produce 2-methoxy-benz[b]acridine-12-carboxylic acid;

reactant | methyl 2-methoxy-benz[b]acridine-12-carboxylate | COC=1C=CC=2N=C3C=C4C(=CC3=C(C2C1)C(=O)OC)C=CC=C4 | C20H15NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-methoxy-benz[b]acridine-12-carboxylic acid | COC=1C=CC=2N=C3C=C4C(=CC3=C(C2C1)C(=O)O)C=CC=C4 | C19H13NO3
